US04548944
5-Chloro-3-(4-nitro-phenyl)-1,2,4-thiadiazole
A solution of 75.6 gm of sodium hydroxide in 100 ml of water was added to a stirred mixture of 101.4 gm of p-nitrobenzamidine hydrochloride, 70 gm of perchloromethyl mercaptan and 760 ml of dichloromethane, while keeping the temperature below -5° C. After additional 2 hours at -5° C., the resulting suspension was filtered, and the organic phase was separated, evaporated to dryness, and the residual solid was recrystallized from 95% ethanol, yielding 45 gm of the title compound, m.p. 143°-145° C.

reactant | sodium hydroxide | 75.6 gm | [OH-].[Na+]
reactant | p-nitrobenzamidine hydrochloride | 101.4 gm | Cl.[N+](=O)([O-])C1=CC=C(C(=N)N)C=C1
reactant | perchloromethyl mercaptan | 70 gm | ClC(Cl)(Cl)S | CHCl3S
reactant | dichloromethane | 760 ml | ClCCl | CH2Cl2
solvent | water | 100 ml | O | H2O
product | 5-Chloro-3-(4-nitro-phenyl)-1,2,4-thiadiazole | 45 gm | ClC1=NC(=NS1)C1=CC=C(C=C1)[N+](=O)[O-] | C8H4ClN3O2S
